US04086221
BOC-Thr(Bzl)-OH (67.7 g.), H-Pro-NH2.HCl (33.0 g.) and HOBT (29.6 g.) were added in THF (220 ml.). WSC (40.0 ml.) was added thereto under cooling at -5° C., stirred for 1 hour at -5° C. and then overnight at room temperature. The reaction mixture was concentrated in vacuo and ethyl acetate (800 ml.) was added to the residue, which is then washed twice with 1 N HCl (400 ml.) and twice with 5% sodium bicarbonate solution (300 ml.) and water. After dehydration by anhydrous magnesium sulfate, the organic layer was concentrated in vacuo. The oily material was charged for silicagel (450 g.) column chromatography. Developing by a mixture of benzene - ethyl acetate (1:1), ethyl acetate and methanol is this order and eluting fractions were checked by silica gel thin layer chromatography. Active fractions were collected and dissolved in ethyl acetate (500 ml.) then washed twice with 5% aqueous sodium bicarbonate (300 ml.) and water, and after drying with anhydrous magnesium sulfate, concentrated in vacuo. The residue was treated with n-hexane to obtain BOC-Thr-(Bzl)-Pro-NH2 as white powder (54.5 g., Yield: 61.4%). Rf1 = 0.48, [α]D28 = -14.0° (c=1, DMF).

reactant | BOC-Thr(Bzl)-OH | 67.7 g | N([C@@H]([C@H](OCC1=CC=CC=C1)C)C(=O)O)C(=O)OC(C)(C)C | C16H23NO5
reactant | H-Pro-NH2.HCl | 33.0 g | N1[C@H](C(=O)N)CCC1.Cl
reactant | HOBT | 29.6 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC | 40.0 ml | CCN=C=NCCCN(C)C | C8H17N3
solvent | THF | 220 ml | C1CCOC1 | C4H8O
product | BOC-Thr-(Bzl) Pro-NH2 | Yield: 61.4% | C[C@H]([C@@H](C(=O)O)NC(=O)OC(C)(C)C)OCC1=CC=CC=C1.N1[C@H](C(=O)N)CCC1 | InChI=1S/C16H23NO5.C5H10N2O/c1-11(21-10-12-8-6-5-7-9-12)13(14(18)19)17-15(20)22-16(2,3)4;6-5(8)4-2-1-3-7-4/h5-9,11,13H,10H2,1-4H3,(H,17,20)(H,18,19);4,7H,1-3H2,(H2,6,8)/t11-,13+;4-/m10/s1
